US07846956B2
1-(5-Trifluoromethyl-isoxazol-3-yl)ethanol was dissolved in 35 ml of diethyl ether, and 2.93 g of triphenylphosphine and 3.71 g of carbon tetrabromide were then added. The mixture was stirred at room temperature for 1 hour. The reaction mixture was subjected to silica gel column chromatography to obtain 1.14 g of 3-(1-bromoethyl)-5-trifluoromethylisoxazole.

reactant | 1-(5-Trifluoromethyl-isoxazol-3-yl)ethanol | FC(C1=CC(=NO1)C(C)O)(F)F | C6H6F3NO2
reactant | triphenylphosphine | 2.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 3.71 g | C(Br)(Br)(Br)Br | CBr4
solvent | diethyl ether | 35 ml | C(C)OCC | C4H10O
product | 3-(1-bromoethyl)-5-trifluoromethylisoxazole | 1.14 g | BrC(C)C1=NOC(=C1)C(F)(F)F | C6H5BrF3NO
